US06706663B2
Preparation of 3-[3-[3-(Bromomethyl)-2-thienyl]-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil
To a mixture of 3-[3-[3-(methyl)-2-thienyl]-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil(0.420 g, 0.993 mmol) and carbon tetrachloride is added N-bromosuccinimide (0.200 g, 1.12 mmol) and benzoyl peroxide (10.0 mg). The resultant mixture is stirred overnight at reflux, cooled and filtered. The filtrate is concentrated in vacuo and the residue partitioned between water and methylene chloride. The organic layer is washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue is chromatographed on silica gel with methylene chloride-diethyl ether to afford a pale yellow oil, which is crystallized in diethyl ether to afford the title compound as a cream-colored solid (0.340 g, 68.1%, mp 169° C.(dec)) which is identified by NMR spectral analysis.

reactant | 3-[3-[3-(methyl)-2-thienyl]-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 0.993 mmol, 0.420 g | CC1=C(SC=C1)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C18H12F3N3O2S2
reactant | N-bromosuccinimide | 1.12 mmol, 0.200 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 10.0 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-[3-[3-(Bromomethyl)-2-thienyl]-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 0.340 g, 68.1% | BrCC1=C(SC=C1)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C18H11BrF3N3O2S2
